US06362181B1
2-Benzyloxy-5-bromo-6-(4-methylpiperazin-1-yl)-benzo[de]isoquinoline-1,3-dione
Following the procedure of Example U1, 2-benzyloxy-5-bromo-6-nitro-benzo[de]isoquinoline-1,3-dione (0.50 g, 1.2 mmol, from Example S1-A) and 1-methylpiperazine (0.46 g, 4.7 mmol) in DMF (5 mL) were reacted to give 0.22 g of the title compound.

reactant | 2-benzyloxy-5-bromo-6-nitro-benzo[de]isoquinoline-1,3-dione | 1.2 mmol, 0.50 g | C(C1=CC=CC=C1)ON1C(C2=CC=CC=3C2=C(C1=O)C=C(C3[N+](=O)[O-])Br)=O | C19H11BrN2O5
reactant | 1-methylpiperazine | 4.7 mmol, 0.46 g | CN1CCNCC1 | C5H12N2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-Benzyloxy-5-bromo-6-(4-methylpiperazin-1-yl)-benzo[de]isoquinoline-1,3-dione | 0.22 g | C(C1=CC=CC=C1)ON1C(C2=CC=CC=3C2=C(C1=O)C=C(C3N3CCN(CC3)C)Br)=O | C24H22BrN3O3
